US07501424B2
Preparation of 4-methyl-N-(5-methylthiazol-2-yl)-3-(4-thiazol-2-yl-pyrimidin-2-ylamino)-benzamide
4-methyl-3-(4-thiazol-2-yl-pyrimidin-2-ylamino)-benzoic acid and 2-amino-5-methylthiazole were used instead of 4-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzoic acid and 3-(4-methylimidazol-1-yl)-5-trifluoromethyl-phenylamine according to the similar procedure to Example 5 to give the titled compound as yellow brown solid.

reactant | 4-methyl-3-(4-thiazol-2-yl-pyrimidin-2-ylamino)-benzoic acid | CC1=C(C=C(C(=O)O)C=C1)NC1=NC=CC(=N1)C=1SC=CN1 | C15H12N4O2S
reactant | 2-amino-5-methylthiazole | NC=1SC(=CN1)C | C4H6N2S
reactant | 4-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzoic acid | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)O)C=C1 | C16H12N4O2
reactant | 3-(4-methylimidazol-1-yl)-5-trifluoromethyl-phenylamine | CC=1N=CN(C1)C=1C=C(C=C(C1)C(F)(F)F)N | C11H10F3N3
product | 4-methyl-N-(5-methylthiazol-2-yl)-3-(4-thiazol-2-yl-pyrimidin-2-ylamino)-benzamide | CC1=C(C=C(C(=O)NC=2SC(=CN2)C)C=C1)NC1=NC=CC(=N1)C=1SC=CN1 | C19H16N6OS2
